US07737166B2
4-Amino-6-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-iodobiphenyl-3-carbonitrile (I-245)
4-Amino-6-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]biphenyl-3-carbonitrile (I-243) (75 mg, 0.25 mmol) was dissolved in acetic acid (1 ml), and at room temperature, N-iodosuccinimide (66 mg, 0.29 mmol) was added. After stirring under nitrogen atmosphere at the same temperature for 6 hours, the reaction liquid was fractionated with chloroform and aqueous 1 M sodium hydroxide solution. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate. The insoluble matter was separated by filtration, the solvent was evaporated away, and the resulting residue was purified by preparative TLC (eluent, chloroform:methanol=9:1) to obtain the entitled compound (67 mg, 63%) as a brown gel.

reactant | 4-Amino-6-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]biphenyl-3-carbonitrile | 0.25 mmol, 75 mg | NC1=C(C=C(C(=C1)N1C[C@H](CC1)N(C)C)C1=CC=CC=C1)C#N | C19H22N4
reactant | N-iodosuccinimide | 0.29 mmol, 66 mg | IN1C(CCC1=O)=O | C4H4INO2
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | acetic acid | 1 ml | C(C)(=O)O | C2H4O2
product | 4-Amino-6-[(3S)-3-(dimethylamino)pyrrolidin-1-yl]-5-iodobiphenyl-3-carbonitrile | 67 mg, 63% | NC1=C(C=C(C(=C1I)N1C[C@H](CC1)N(C)C)C1=CC=CC=C1)C#N | C19H21IN4
